US06407259B1
A mixture of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (25 g, 0.136 Mol), sodium carbonate (18 g, 0.17 Mol) and sodium iodide (20.4 g, 0.136 Mol) were suspended in ethyl methyl ketone (125 mL) at room temperature. 2-bromoethyl methyl ether (12.8 mL, 0.142 Mol) was added and the mixture was heated to reflux and stirred for 70 hours. The mixture was cooled to ambient temperature and water (250 mL) was added. The resultant slurry was warmed to reflux and held at that temperature for 30 min before cooling to room temperature. The resultant precipitate was granulated at room temperature for 3 h, filtered and vacuum dried to afford 5-ethyl-1-(2-methoxyethyl)-4-nitro-1H-pyrazole-3-carboxamide as a yellow crystalline solid 24.3 g, 74%. Data as reported for Example (g)(i).

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 0.136 Mol, 25 g | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | sodium carbonate | 0.17 Mol, 18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.136 Mol, 20.4 g | [I-].[Na+]
reactant | 2-bromoethyl methyl ether | 0.142 Mol, 12.8 mL | COCCBr | C3H7BrO
solvent | ethyl methyl ketone | 125 mL | CC(=O)CC | C4H8O
solvent | water | 250 mL | O | H2O
product | 5-ethyl-1-(2-methoxyethyl)-4-nitro-1H-pyrazole-3-carboxamide | 24.3 g, 74% | C(C)C1=C(C(=NN1CCOC)C(=O)N)[N+](=O)[O-] | C9H14N4O4
